US08314100B2
1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-cyanophenyl)piperazine (Compound 164)
Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate and 1-(2-cyanophenyl)piperazine were reacted by the same way with the example 148 to obtain the titled compound (yield, 97%). 1H NMR (300 MHz, CDCl3): δ 2.46 (s, 3H), 3.28 (s, 4H), 3.86 (s, 3H), 4.08-4.19 (m, 4H), 7.01-7.08 (m, 3H), 7.17-7.37 (m, 1H), 7.49-7.61 (m, 4H)

reactant | Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(OCC)=O | C13H15N3O4
reactant | 1-(2-cyanophenyl)piperazine | C(#N)C1=C(C=CC=C1)N1CCNCC1 | C11H13N3
product | 1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-cyanophenyl)piperazine | 97% | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)C#N | C22H22N6O3
